US06177440B1
40% Methanolic Triton B (0.49 mL, 1.07 mM) was added to a solution of the 9-[(2,6-difluorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole (290 mg, 0.82 mM) in 5 mL DMF at room temperature. After 15 minutes, methyl bromoacetate (259 mg, 1.65 mM) was added and the resultant mixture stirred at room temperature for 24 hours. The mixture was diluted with H2O and the resultant white precipitate collected by filtration, triturated with diethyl ether/hexanes, and dried in vacuo to afford 228 mg (65%) of the {9-[(2,6-difluorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester as a white solid. 1H NMR (CDCl3) δ 7.65 (d, 1H, J=8 Hz), 7.45-7.2 (m, 5H), 6.85 (t, 2H, J=8 Hz), 6.55 (d, 1H, J=8 Hz), 6.3 (br s, 1H), 6.0 (br s, 1H), 5.5 (s, 2H), 4.9 (s, 2H), and 3.8 (s, 3H). IR (KBr, cm−1) 3432, 3170, 1762, and 1675. MS (ES) m/e 425.

reactant | 9-[(2,6-difluorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 0.82 mM, 290 mg | FC1=C(C(=CC=C1)F)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C20H14F2N2O2
reactant | methyl bromoacetate | 1.65 mM, 259 mg | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | {9-[(2,6-difluorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 228 mg, 65% | FC1=C(C(=CC=C1)F)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC)C(N)=O | C23H18F2N2O4
